US05164387
8.30 g of 3,4-dihydro-2H-2,5-benzothiazepine hydrobromide were placed in 150 ml of THF and deprotonized with 48 ml of 1.55M nBuLi (hexane) under an Argon atmosphere at -10° C. After 1/4 hour, 4.64 ml of Methyl iodide (MeI) were added dropwise to the yellow solution of the Li amide and the mixture was stirred for 1 hour. It was then poured on to ice, extracted with ether, washed with water, dried and evaporated. Column chromatography on silica gel (petroleum ether/ethyl acetate 96/4) yielded 5.70 g of 3,4-dihydro-5-methyl-2H-1,5-benzothiazepine as a colorless oil which was formylated as follows:

reactant | 3,4-dihydro-2H-2,5-benzothiazepine hydrobromide | 8.30 g | Br.N=1CCSC=C2C1C=CC=C2
reactant | nBuLi | 1.55M, 48 ml | [Li]CCCC
reactant | Methyl iodide | 4.64 ml | CI | CH3I
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | 3,4-dihydro-5-methyl-2H-1,5-benzothiazepine | 5.70 g | CN1CCCSC2=C1C=CC=C2 | C10H13NS
